US07060827B2
A mixture of 3-nitrophenol (0.50 g, 3.6 mmole), ethyl bromodimethylacetate (0.64 g, 3.3 mmole), K2CO3 (1.3 g, 9.4 mmole), potassium iodide (catalytic) in absolute ethanol (8 mL) was heated at 70° C. for 18 h. The reaction mixture was cooled, poured into a saturated solution of NaHCO3, and extracted with dichloromethane. The product, ethyl 2-methyl-2-(3-nitrophenoxy)propanate, was obtained after purification by column chromatography over silica gel. 1H NMR (CDCl3): δ 7.85 (dt, 1H, J=1.2 and 8.1 Hz), 7.68 (t, 1H, J=2.4 Hz), 7.40 (t, 1H, J=8.4 Hz), 7.19–7.13 (m, 1H), 4.26 (q, 2H, J=7.2 Hz), 1.64 (s, 6H), 1.26 (t, 3H, J=7.21),

reactant | 3-nitrophenol | 3.6 mmole, 0.50 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | ethyl bromodimethylacetate | 3.3 mmole, 0.64 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | K2CO3 | 9.4 mmole, 1.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | ethyl 2-methyl-2-(3-nitrophenoxy)propanate | CC(C(=O)OCC)(C)OC1=CC(=CC=C1)[N+](=O)[O-] | C12H15NO5
